US07339058B2
Preparation of N-(5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-2-methoxy-4-(trifluoromethyl)pyridine-3-sulfonamide
2-Amino-5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidine (9.8 g, 0.050 mol) and N-(5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-S,S-dimethyl-sulfilimine hydrochloride salt (1.5 g, 0.005 mol) solids were combined with 2-methoxy-4-(trifluoromethyl)-pyridine-3-sulfonyl chloride (14 g, 0.051 mol) in acetonitrile (40 mL). 3,5-Lutidine (31 g, 93% technical) was added, and the mixture was stirred at room temperature for 22 hours. The mixture was warmed to 42° C. and treated with 3 N HCl (65 mL), after which the mixture was allowed to cool to room temperature over 1.5 hours. The solids were collected by filtration, washed with a 2:1 v/v solution of water:acetonitrile (20 mL), and dried under vacuum at 60° C. to afford 18 g of product assaying at 94 wt % (78% yield).

reactant | 2-Amino-5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidine | 0.050 mol, 9.8 g | NC1=NN2C(N=C(C=C2OC)OC)=N1 | C7H9N5O2
reactant | N-(5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-S,S-dimethyl-sulfilimine hydrochloride salt | 0.005 mol, 1.5 g | Cl.COC1=NC=2N(C(=C1)OC)N=C(N2)N=S(C)C
reactant | 2-methoxy-4-(trifluoromethyl)-pyridine-3-sulfonyl chloride | 0.051 mol, 14 g | COC1=NC=CC(=C1S(=O)(=O)Cl)C(F)(F)F | C7H5ClF3NO3S
reactant | 3,5-Lutidine | 31 g | N1=CC(=CC(=C1)C)C | C7H9N
reactant | HCl | 3 N, 65 mL | Cl | ClH
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N-(5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-2-methoxy-4-(trifluoromethyl)pyridine-3-sulfonamide | 18 g, 78% yield | COC1=NC=2N(C(=C1)OC)N=C(N2)NS(=O)(=O)C=2C(=NC=CC2C(F)(F)F)OC | C14H13F3N6O5S
